*---------- DMP10H400SK3 Spice Model ----------
.SUBCKT DMP10H400SK3 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3 PMOS L = 1E-006 W = 1E-006 
RD 10 1 0.1739 
RS 30 3 0.001 
RG 20 2 12.5 
CGS 2 3 1.213E-009 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1 VFB 1 
CGD 13 14 4E-010 
R1 13 30 1 
D1 13 12 DLIM 
DDG 14 15 DCGD 
R2 12 15 1 
D2 30 15 DLIM 
DSD 10 3 DSUB 
.MODEL PMOS PMOS LEVEL = 3 U0 = 400 VMAX = 1E+006 ETA = 4.441E-010 
+ TOX = 6E-008 NSUB = 1E+016 KP = 12.42 KAPPA = 61.41 VTO = -2.193 
.MODEL DCGD D CJO = 9.262E-011 VJ = 0.7916 M = 0.3376 
.MODEL DSUB D IS = 3.112E-009 N = 1.487 RS = 0.008305 BV = 150 
+ CJO = 1.637E-010 VJ = 0.753 M = 0.6004 
.MODEL DLIM D IS = 0.0001 
.ENDS
*Diodes DMP10H400SK3 Spice Model v1.0 Last Revised 2014/02/21