*---------- DMP6180SK3 Spice Model ----------
.SUBCKT DMP6180SK3 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3 PMOS L = 1E-006 W = 1E-006 
RD 10 1 0.04464 
RS 30 3 0.001 
RG 20 2 13 
CGS 2 3 1E-009 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1 VFB 1 
CGD 13 14 6.5E-010 
R1 13 30 1 
D1 13 12 DLIM 
DDG 14 15 DCGD 
R2 12 15 1 
D2 30 15 DLIM 
DSD 10 3 DSUB 
.MODEL PMOS PMOS LEVEL = 3 U0 = 400 VMAX = 1E+006 ETA = 4.441E-010 
+ TOX = 6E-008 NSUB = 1E+016 KP = 10.4 KAPPA = 30.49 VTO = -2.063 
.MODEL DCGD D CJO = 1.881E-010 VJ = 0.6541 M = 0.3655 
.MODEL DSUB D IS = 2.224E-010 N = 1.277 RS = 0.01338 
+ BV = 50 CJO = 1.189E-010 VJ = 0.7738 M = 0.6069 
.MODEL DLIM D IS = 0.0001 
.ENDS
*Diodes DMP6180SK3 Spice Model v1.0 Last Revised 2013/08/07